US04147791
17.6 g (0.1 mol) of 1-phenyl-3,3-dimethyl-butan-2-one were dissolved in 100 ml of carbon tetrachloride, 5 ml (0.1 mole) of bromine were added dropwise thereto while stirring and under reflux, and the mixture was heated to the boil for one hour. After cooling, the distilling off the solvent, 25.4 g of 1-bromo-1-phenyl-3,3-dimethyl-butan-2-one of melting point 38°-42° C. were obtained in quantitative yield.

reactant | 1-phenyl-3,3-dimethyl-butan-2-one | 0.1 mol, 17.6 g | C1(=CC=CC=C1)CC(C(C)(C)C)=O | C12H16O
reactant | bromine | 0.1 mole, 5 ml | BrBr | Br2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-1-phenyl-3,3-dimethyl-butan-2-one | 25.4 g, quantitative yield | BrC(C(C(C)(C)C)=O)C1=CC=CC=C1 | C12H15BrO
